### PR TITLE
feat(ErdosProblems): 912

### LINKED ISSUE #1016: Erdős Problem 912
### What is the conjecture

https://www.erdosproblems.com/912

  If 
$$n! = \prod_i p_i^{k_i}$$
is the factorisation into distinct primes then let $h(n)$ count the number of distinct exponents $k_i$. 

Prove that there exists some $c>0$ such that
$$h(n) \sim c \left(\frac{n}{\log n}\right)^{1/2}$$
as $n\to \infty$.

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #1016

We don't have Cramér model for the primes right? Maybe I can open another PR adding this conjecture so that I can state Tao's result that `c = √(2π)`.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/912.lean [hunk 1]
```diff
@@ -0,0 +1,48 @@
...
+-/
+
+open scoped Nat Asymptotics
+open Filter
+
+namespace Erdos912
+
+noncomputable def h (n : ℕ) : ℕ := (n !).factorization.frange.card
+
+/-- Erdős and Selfridge prove in [Er82c] that `h =Θ[atTop] (fun n => (n / log n) ^ (1 / 2))`. -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/912.lean]:
```suggestion
/-- Erdős and Selfridge prove in [Er82c] that $h(n) \asymp \left(\frac{n}{\log n}\right)^{1/2}$. -/
```

File: FormalConjectures/ErdosProblems/912.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+@[category research solved, AMS 11]
+theorem erdos_912_theta :
+    (fun n => (h n : ℝ)) =Θ[atTop] (fun n => (n / Real.log n) ^ (1 / 2 : ℝ)) := by
+  sorry
+
+/-- Prove that there exists a constant `c > 0` such that
+`h ~[atTop] (fun n => c * (n / log n) ^ (1 / 2))`.
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/912.lean]:
```suggestion
/-- Prove that there exists some $c>0$ such that
$$h(n) \sim c \left(\frac{n}{\log n}\right)^{1/2}$$
as $n\to \infty$.
-/
```

File: FormalConjectures/ErdosProblems/912.lean [hunk 3]
```diff
@@ -0,0 +1,48 @@
...
+ - [erdosproblems.com/912](https://www.erdosproblems.com/912)
+ - [Er82c] Erdős, P., Miscellaneous problems in number theory. Congr. Numer. (1982), 25-45.
+-/
+
+open scoped Nat Asymptotics
+open Filter
+
+namespace Erdos912
+
+noncomputable def h (n : ℕ) : ℕ := (n !).factorization.frange.card
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/912.lean:34]: Please add a docstring here

File: FormalConjectures/ErdosProblems/912.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+@[category research open, AMS 11]
+theorem erdos_912.equivalent : ∃ c > 0,
+    (fun n => (h n : ℝ)) ~[atTop] (fun n => c * (n / Real.log n) ^ (1 / 2 : ℝ)) := by
+  sorry
+
+/-- A heuristic of Tao using the Cramér model for the primes suggests this is true with
+$c=\sqrt{2\pi}$. -/
+@[category research open, AMS 11]
+theorem erdos_912.variant : ∃ c > 0,
+    (fun n => (h n : ℝ)) ~[atTop] (fun n => c * (n / Real.log n) ^ (1 / 2 : ℝ)) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/912.lean]:
```suggestion
theorem erdos_912.variant :
    (fun n => (h n : ℝ)) ~[atTop] (fun n => (2* Real.pi).sqrt * (n / Real.log n) ^ (1 / 2 : ℝ)) := by
```

Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/912.lean]: oh sorry I forget to push my local commit
